US06441044B1
a) 1-Isopropoxycarbonylaminocyclopropanecarboxylic Acid
0.2 g (1.98 mmol) of 1-aminocyclopropane-1-carboxylic acid were initially charged in 10 ml of 12% strength aqueous sodium hydroxide solution. After addition of 0.24 g (1.98 mmol) of isopropyl chloroformate, the pH was adjusted to 9 by dropwise addition of 12% strength aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 14 hours and then, for work-up, extracted twice with methyl tert-butyl ether. The pH was subsequently adjusted to 1-2 using phosphoric acid. The mixture was extracted three times using dichloromethane, the extracts were dried with magnesium sulfate and the solvent was removed, after which the title compound was isolated as a white solid (0.2 g; 54% yield).

reactant | 1-aminocyclopropane-1-carboxylic acid | 1.98 mmol, 0.2 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropyl chloroformate | 1.98 mmol, 0.24 g | ClC(=O)OC(C)C | C4H7ClO2
product | 1-Isopropoxycarbonylaminocyclopropanecarboxylic Acid | 54% yield | C(C)(C)OC(=O)NC1(CC1)C(=O)O | C8H13NO4
